US05747537
7-(p-Butylphenyl)heptanoic acid.
This compound was synthesized from 7-(p-butylphenyl)-6-heptenoic acid (1.30 g, 5 mmol) by a hydrogenation reaction using Pd/C (130 mg). Crystallization (petroleum ether) afforded the product (1.19 g, 97%) as white crystals (mp 32°-33° C.). IR: 3400-2500, 1718 cm-1 ; 1H-NMR: 0.92 (t, 3H), 1.35 (m, 6H), 1.60 (m, 6H), 2.32 (t, 2H), 2.55 (m, 4H), 7.02 (s, 4H), 9.70 (bs, 1H). Anal. Calcd. for C17H26O2 : C, 77.82, H, 9.99%; Found: C, 77.73, H, 10.01%.

reactant | 7-(p-butylphenyl)-6-heptenoic acid | 5 mmol, 1.30 g | C(CCC)C1=CC=C(C=C1)C=CCCCCC(=O)O | C17H24O2
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | 7-(p-Butylphenyl)heptanoic acid | 1.19 g, 97% | C(CCC)C1=CC=C(C=C1)CCCCCCC(=O)O | C17H26O2
